US07935699B2
To a stirred solution of (R)-3-cyclopentyl-N-((1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-2-(3-methylsulfanyl-phenyl)-propionamide (1.16 g, 2.82 mmol) in 1,4-dioxane (10 mL) was added 9 N aqueous sulfuric acid (10 mL) and the reaction was stirred at 110° C. for 18 h. The reaction was cooled to 25° C. and diluted with water (25 mL) and poured into methylene chloride (30 mL). The layers were separated and the aqueous layer was extracted with methylene chloride (2×30 mL). The combined methylene chloride layers were washed with water and saturated sodium chloride solution and then dried over magnesium sulfate. Filtration and concentration afforded the crude product which was purified by ISCO flash column chromatography (Teledyne Isco RediSep Flash Column 40 g; 0% ethyl acetate/hexanes to 50% ethyl acetate/hexanes) to yield (R)-3-cyclopentyl-2-(3-methylsulfanyl-phenyl)-propionic acid (712 mg, 96%) as a white solid.

reactant | (R)-3-cyclopentyl-N-((1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-N-methyl-2-(3-methylsulfanyl-phenyl)-propionamide | 2.82 mmol, 1.16 g | C1(CCCC1)C[C@@H](C(=O)N(C)[C@@H]([C@@H](C1=CC=CC=C1)O)C)C1=CC(=CC=C1)SC | C25H33NO2S
reactant | sulfuric acid | 9 N, 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
product | (R)-3-cyclopentyl-2-(3-methylsulfanyl-phenyl)-propionic acid | 712 mg, 96% | C1(CCCC1)C[C@@H](C(=O)O)C1=CC(=CC=C1)SC | C15H20O2S
